US08476253B2
tert-Butyl 4-[(6-ethoxy-6-oxohexyl)amino]benzoate
Ethyl 6-bromohexanoate (8.44 mL, 49.7 mmol) and tert-butyl 4-aminobenzoate (6.41 g, 33.2 mmol) were dissolved in N,N-dimethylformamide (33 mL), N,N-diisopropylethylamine (8.64 mL, 49.7 mmol) was added, and the mixture was stirred at 50° C. for 3 days. Potassium iodide (8.25 g, 49.7 mmol) was added, and the mixture was further stirred at 50° C. for 4 days. A saturated aqueous sodium hydrogencarbonate solution was added, and the mixture was extracted with ethyl acetate (×2). The resulting organic layer was washed with water (×3) and saturated sodium chloride solution and dried with anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1→4:1, v/v). A mixed solvent of hexane and dichloromethane was added to the resulting white solid, and the mixture was filtered to give the title compound (5.54 g; yield, 50%) as a white solid.

reactant | Ethyl 6-bromohexanoate | 49.7 mmol, 8.44 mL | BrCCCCCC(=O)OCC | C8H15BrO2
reactant | tert-butyl 4-aminobenzoate | 33.2 mmol, 6.41 g | NC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C11H15NO2
reactant | N,N-diisopropylethylamine | 49.7 mmol, 8.64 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | Potassium iodide | 49.7 mmol, 8.25 g | [I-].[K+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 33 mL | CN(C=O)C | C3H7NO
product | tert-Butyl 4-[(6-ethoxy-6-oxohexyl)amino]benzoate | 5.54 g, 50% | C(C)OC(CCCCCNC1=CC=C(C(=O)OC(C)(C)C)C=C1)=O | C19H29NO4
